US05344843
4-Hydroxy-alpha-oxobenzeneacetic acid ethyl ester (1.44 g) and 55% sodium hydride (0.36 g) in dimethylformamide (30 mL) was stirred for 20 minutes and then treated with 5-bromo-1-[3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy) methoxy]phenyl]pentanone (3.4 g) in dimethylformamide (6 mL). The mixture was stirred at room temperature for 20 hours and then after an additional 4 hours at 50° C., it was worked up as in Example 20. The residual oil was purified by HPLC (ethyl acetate-toluene; 1:17) to give 2.7 g of 4-[5-[3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy) methoxy]phenyl]-5-oxopentyloxy]-alpha-oxobenzeneacetic acid ethyl ester as an oil. A solution of the above 4-[5-[3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy) methoxy]phenyl]-5-oxopentyloxy]-alpha-oxobenzeneacetic acid ethyl ester (2.1 g) was dissolved in dichloromethane (20 mL) containing trifluoroacetic acid (1.1 mL) was stirred at room temperature for 31 hours, then saturated sodium bicarbonate solution was added (25 mL). The separated organic layer was dried (MgSO4) and evaporated and the crude product was purified by HPLC (ethyl acetate-hexane; 4:21). Trituration of the resulting material with hexane afforded 1.4 g of 4-[5-[3,5-bis(1,1-dimethylethyl) -4-hydroxyphenyl]-5-oxopentyloxy]-alpha-oxobenzeneacetic acid ethyl ester, mp 95°-96° C.

reactant | 4-[5-[3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy) methoxy]phenyl]-5-oxopentyloxy]-alpha-oxobenzeneacetic acid ethyl ester | 2.1 g | C(C)OC(C(C1=CC=C(C=C1)OCCCCC(=O)C1=CC(=C(C(=C1)C(C)(C)C)OCOCCOC)C(C)(C)C)=O)=O | C33H46O8
reactant | trifluoroacetic acid | 1.1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-[5-[3,5-bis(1,1-dimethylethyl) -4-hydroxyphenyl]-5-oxopentyloxy]-alpha-oxobenzeneacetic acid ethyl ester | 1.4 g | C(C)OC(C(C1=CC=C(C=C1)OCCCCC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)=O | C29H38O6
